US04925857
Ethyl-5-phenyl-4-(2-pyridinyl)-1H-pyrazole-1-acetate
A solution of 26 g (0.132 mol) of 1-phenyl-2-(2-pyridinyl)ethanone and 19.3 mL (0.145 mol) of dimethylformamide dimethylacetal in 100 mL of methyl t-butyl ether was refluxed 4 hr. Because TLC on silica gel with 10% isopropylamine in ethyl acetate showed little reaction, another 20 mL of DMF dimethylacetal was added and the solution refluxed a further 6 hr. The solvent was stripped and the resulting crude, oily β-ketoenamine was dissolved in 400 mL of ethanol. The ethanol solution was heated to 40° with 22 g (0.143 mol) of ethyl hydrazinoacetate hydrochloride for about 1.5 hr. The solvent was stripped, and the resulting impure product was dissolved in a small amount of methylene dichloride and applied to a column of 850 g of silica gel. The column was eluted with 2:1 hexane-ethyl acetate to yield 25 g of yellow solid product, mp 98°-100° C. after evaporation of the solvent.

reactant | 1-phenyl-2-(2-pyridinyl)ethanone | 0.132 mol, 26 g | C1(=CC=CC=C1)C(CC1=NC=CC=C1)=O | C13H11NO
reactant | dimethylformamide dimethylacetal | 0.145 mol, 19.3 mL | COC(N(C)C)OC | C5H13NO2
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | ethyl hydrazinoacetate hydrochloride | 0.143 mol, 22 g | Cl.N(N)CC(=O)OCC
solvent | methyl t-butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | Ethyl-5-phenyl-4-(2-pyridinyl)-1H-pyrazole-1-acetate | 25 g | C(C)OC(CN1N=CC(=C1C1=CC=CC=C1)C1=NC=CC=C1)=O | C18H17N3O2
